Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Altered Mental Status
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI:  ___ yo F with h/o dementia- suspected to be vascular who 
presents after unwitnessed fall. She was found by her HCP on the 
floor by the cupboard. She reported midline neck tenderness and 
abdominal pain. She has also had difficulty negotiating simple 
tasks which is different from her baseline. She is unable to 
bathe and dress herself. She puts bites of food in her mouth and 
she forgets to swallow them. She has a history of altered mental 
status with hypercalcemia.  Her calcium was found to be elevated 
at 12.5 and her creatinine was elevated to 3.6, so she was 
admitted for treatment.  
Patient was quite delirious, and unable to give us any 
additional information regarding her symptoms.  
 
Past Medical History:
1. Hypertension
2. Dementia - likely vascular
2. h/o Raynaud's Phenomenon
3. COPD - heavy smoking history
4. Hyperlipidemia
5. h/o Alcohol Abuse
6. Anxiety/depression
 
Social History:
___
Family History:
Sister - Legally ___
Brother living 
No known malignancy per partner
No children 
 
Physical Exam:
VS: Afebrile P = ___  BP = ___  RR = 20 O2Sat = 98% 
on RA 
GENERAL:  Thin frail elderly female
Mentation: alert but increased non-purposeful psychomotor 
activity  
Eyes:NC/AT, EOMI without nystagmus, no scleral icterus noted  
Ears/Nose/Mouth/Throat: dry MM, no lesions noted in OP  
Neck: supple, no JVD or carotid bruits appreciated  
Respiratory: Soft bibasilar crackles
Cardiovascular: RRR, nl. S1S2, no M/R/G noted  
Gastrointestinal: soft, NT/ND, normoactive bowel sounds, no 
masses or organomegaly noted.  
Rectal: No pressure ulcer
Vault empty of stool
Genitourinary: foley in place 
Skin: Multiple SKs on back
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses b/l.  
Lymphatics/Heme/Immun: No cervical, lymphadenopathy noted.  
Neurologic:  
-mental status: Alert, oriented x 1. Unablle to state year or 
location. Unable to relate history. Unable to DOWB.  Unable to 
answer questions posed to her.  
-cranial nerves: II-XII intact  
-motor: normal bulk, strength in B/L upper extremities and LLE. 
? ___ strength in RLE. + non goal directed psychomotor activity 

 
Pertinent Results:
___ 08:10PM   cTropnT-<0.01
___ 02:40PM   GLUCOSE-121* UREA N-29* CREAT-2.2* SODIUM-142 
POTASSIUM-3.3 CHLORIDE-98 TOTAL CO2-32 ANION GAP-15
___ 02:40PM   estGFR-Using this
___ 02:40PM   ALT(SGPT)-16 AST(SGOT)-35 ALK PHOS-51 TOT 
BILI-0.6
___ 02:40PM   LIPASE-71*
___ 02:40PM   cTropnT-<0.01
___ 02:40PM   TOT PROT-7.9 ALBUMIN-4.8 GLOBULIN-3.1 
CALCIUM-14.7*
___ 02:40PM   WBC-8.4 RBC-3.83* HGB-12.7 HCT-36.3 MCV-95 
MCH-33.1* MCHC-34.9 RDW-14.1
___ 02:40PM   NEUTS-81.4* LYMPHS-11.1* MONOS-5.8 EOS-1.0 
BASOS-0.7
___ 02:40PM   PLT COUNT-273
___ 02:40PM   ___ PTT-26.7 ___
.
ECG: NSR at 65 bpm. Non-specific ST segment changes
.
Neck CT:
IMPRESSION: 
1. No acute injury of the cervical spine. 
2. Multilevel cervical osteoarthritis without critical spinal 
canal or neural foraminal narrowing. 
3. Heterogeneous-appearing left thyroid lobe. Nonemergent 
ultrasound is 
recommended for further evaluation to exclude focal lesion. 
4. Pulmonary emphysema. 

Head CT:  FINDINGS: There is no intracranial hemorrhage, mass 
effect, edema, or shift of normally midline structures. There is 
no evidence of major vascular territorial infarct. The 
gray-white matter differentiation is preserved.  Prominent 
ventricles and sulci are stable as compared to ___, 
likely due to age-related involution. Areas of periventricular 
white matter hypoattenuation are redemonstrated, consistent with 
small vessel ischemic disease. Suprasellar and basilar cisterns 
are patent. Paranasal sinuses and mastoid air cells are well 
aerated. Vascular calcifications are seen in the cavernous 
carotid arteries and left vertebral artery. Globes and soft 
tissues are unremarkable. 
  
IMPRESSION: 
1. No evidence of acute intracranial process. 
2. Stable age-related involution and small vessel ischemic 
disease. 

Renal U/S:
IMPRESSION: Normal ultrasound evaluation of the kidneys. Calculi 
seen on CT are not demonstrated on ultrasound. 

 
Brief Hospital Course:
The patient is a ___ year old femalew with h/o dementia with 
worening mental status found to have hypercalcemia. 
.
Acute metabolic encephalopathy/Delirium: Likely multifactorial 
to include hypercalcemia and ARF.  She was initially very 
somnolent, though because more interactive during the admission. 
 She remained largely oriented only to self, with poor short 
term memory, confabulation, and inattention.  She required 
frequent prompting to eat, walk, and interact.  Her delirium 
only mildly improved during her hospital course.  She has 
underlying dementia (presumed vascular), and her PCP and HCP 
feel that her dementia had been worsening over the course of the 
year.  Even with correction of her hypercalcemia and improvement 
in her acute renal failure, her delirium did not resolve.  I 
discussed this at length with her health care proxy, and noted 
that this might take a prolonged time course to resolve given 
her underlying dementia, or that it may represent a new "set 
point" in her functioning.  

Hypercalcemia: Extensive work up on prior admission and beyond 
did not demonstrate any obvious cause.  Endocrinology was 
consulted.  They felt the cause was most likely immobility and 
dehydration, though underlying malignancy could be definitively 
excluded.  She was given pamidronate and calcitonin, as well as 
vigorous IVF with eventual improvement.  Recommend frequent 
monitoring of her Ca, phos, ambulation, hydration, and avoid Cal 
+D supplementation/bisphosphonate.

Acute Renal Failure: Similar to past admission, and consistent 
with pre-renal and Ca nephrotoxicity.  Fena was elevated, renal 
US reassuring and no other medication offenders.  No infection 
and bland sediment, port/cr ration not particularly elevated.  
Her creatinine was 2.1 on discharge.  

Hypertension, benign: Continued amlodipine.

Thyroid nodule: Incidental finding.  TSH normal.  Consider 
follow up ultrasound

PATIENT IS DNR/DNI - THIS WAS CONFIRMED WITH HER HEALTH CARE 
PROXY.

Patient's prognosis appears to be very poor.  Her dementia has 
been worsening over the course of the year, and her delirium has 
not yet resolved.  I discussed with her health care proxy over 
the phone goals of care.  HCP aware that she will need long term 
placement.  Health care proxy also advised to consider making 
patient do not rehospitalize in the event that her delirium does 
not clear.  
 
Medications on Admission:
alendronate 35 mg Tablet 
amlodipine 10 mg Tablet 
citalopram 10 mg Tablet 
simvastatin 20 mg Tablet 
aspirin 81 mg Tablet, Chewable 
calcium carbonate-vitamin D3 
500 mg (1,250 mg)-400 unit Tablet 
multivitamin 
Senna 8.6 mg Tablet 
___ Tablet(s) by mouth at bedtime as needed for constipation  

 
Discharge Medications:
1. amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

2. citalopram 20 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
3. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
5. thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO once a day. 
 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute metabolic encephalopathy/delirium
Hypercalcemia
Acute renal failure
Dementia
Hypertension
Hypertension

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Patient was admitted with acute delirium(confusion) caused by 
high calcium.  Her calcium level normalized within a few days of 
admission, but her confusion remained.  She was also dehydrated 
when she was admitted, and this caused some impairment in her 
kidneys. Her kidney function improved over the course of the 
hospitalization, but it did not return to its' previous level.  
She remains with mild kidney impairment; she had a ultrasound of 
her kidneys and tests of her urine that do not show any other 
process affecting her kidneys.  Her kidney function should 
normalize over time. She is urinating without difficulty.  

REHAB FACILITY SHOULD CHECK HER CALCIUM/PHOSPHORUS/CREATININE 
___ TO ENSURE THAT HER CALCIUM OR CREATININE ARE NOT 
RISING.  ___ ENCOURAGE HER TO EAT AND DRINK WELL, AS WELL AS 
TO BE AS ACTIVE AS POSSIBLE, AS THESE WILL HELP TO KEEP HER 
CALCIUM LEVELS WITHIN NORMAL LIMITS.   
 
Followup Instructions:
___